US08049016B2
Preparation of ethyl 2-(3-(but-3-enyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Preparation 5, making variations as required to replace (S)-ethyl 4-methyl-2-(4-methyl-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate and with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate to react with 4-bromobut-1-ene, the title compound was obtained as an off-white solid (2.05 g, 85%): mp 97-98° C. (diethyl ether); 1H NMR (300 MHz, DMSO-d6) δ 5.86-5.72 (m, 1H), 5.16-5.02 (m, 2H), 4.22 (q, J=7.1 Hz, 2H), 4.02-3.79 (m, 2H), 3.60-3.55 (m, 2H), 3.34-3.29 (m, 2H), 2.51 (s, 3H), 2.33-2.26 (m, 2H), 1.27 (t, J=7.1 Hz, 3H); MS (ES+) m/z 309.8 (M+1).

reactant | (S)-ethyl 4-methyl-2-(4-methyl-2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N[C@H](C1)C)=O | C11H15N3O3S
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
reactant | 4-bromobut-1-ene | BrCCC=C | C4H7Br
product | ethyl 2-(3-(but-3-enyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | C(CC=C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H19N3O3S
